US08895313B2
4-(2,2,2-Trifluoroethoxy)benzaldehyde
To a stirred suspension of sodium hydride (60% dispersion in mineral oil, 0.87 g, 21.8 mmol) in DMSO (20 ml) was added trifluoroethanol (3.97 g, 39.7 mmol) at 10-15° C. under an atmosphere of argon. The reaction mixture was stirred at this temperature for 20 min then 4-nitrobenzaldehyde (3.0 g, 19.85 mmol) was added in one portion. The reaction mixture was stirred at 10-15° C. for 3 h then at room temperature for 60 h. Brine (100 ml) was added cautiously to the reaction mixture followed by extraction with Et2O (3×70 ml). The combined organic extracts were washed with water, dried (MgSO4) and the solvent removed under reduced pressure to give an oil which was purified by flash chromatography (3:1 Hexane/EtOAc) to give a yellow oil which solidified on standing at room temperature to give the title compound (1.76 g, 43%) as a yellow solid.

reactant | sodium hydride | 21.8 mmol, 0.87 g | [H-].[Na+]
reactant | trifluoroethanol | 39.7 mmol, 3.97 g | C(C(F)(F)F)O | C2H3F3O
reactant | 4-nitrobenzaldehyde | 19.85 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | Brine | 100 ml | [Cl-].[Na+].O
product | 4-(2,2,2-Trifluoroethoxy)benzaldehyde | 1.76 g, 43% | FC(COC1=CC=C(C=O)C=C1)(F)F | C9H7F3O2
